US07049438B2
Using analogous procedures to those described in Note [33] immediately above, 1-(tert-butoxycarbonyl)-L-proline was reacted with pyrrolidine to give (2S)-1-(tert-butoxycarbonyl)-2-(pyrrolidin-1-ylcarbonyl)pyrrolidine which was deprotected and reacted with 2-bromoethanol. There was thus obtained the required starting material; NMR Spectrum: (CDCl3) 1.7–2.05 (m, 8H), 2.1–2.3 (m, 1H), 2.4–2.5 (m, 1H), 2.55–2.7 (m, 1H), 2.8–2.9 (m, 1H), 3.2–3.3 (m, 2H), 3.4–3.7 (m, 5H), 4.1 (br s, 1H); Mass Spectrum: M+H+ 213.

reactant | 1-(tert-butoxycarbonyl)-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (2S)-1-(tert-butoxycarbonyl)-2-(pyrrolidin-1-ylcarbonyl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1CCCC1 | C14H24N2O3
